US04014920
26.2 g (0.1 mol) of 3-allyloxy-4-acetoxy-cinnamic acid are suspended in 90 ml of benzene and 14.6 ml (0.2 mol) of thionyl chloride are added. The reaction mixture is heated to the boil under reflux for 30 minutes. Thereafter the solvent and the excess thionyl chloride are removed by distillation under reduced pressure. The crude 3-allyloxy-4-acetoxy-cinnamic acid chloride which is left is dissolved in 100 ml of absolute dimethoxyethane, 19.5 g (0.3 mol) of sodium azide are added and the reaction mixture is subsequently stirred for 48 hours at room temperature. The inorganic salts are then filtered off and the filtrate is concentrated under reduced pressure at 30° C. Hereupon, colourless crystals separate out. The crystallisation is completed by addition of ether. 3-Allyloxy-4-acetoxy-cinnamic acid azide of melting point 83°-84° C is obtained.

reactant | 3-allyloxy-4-acetoxy-cinnamic acid | 0.1 mol, 26.2 g | C(C=C)OC=1C=C(C=CC(=O)O)C=CC1OC(C)=O | C14H14O5
reactant | thionyl chloride | 0.2 mol, 14.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 0.3 mol, 19.5 g | [N-]=[N+]=[N-].[Na+]
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | 3-Allyloxy-4-acetoxy-cinnamic acid azide | C(C=C)OC=1C=C(C=CC(=O)N=[N+]=[N-])C=CC1OC(C)=O | C14H13N3O4
